### PR TITLE
chore: update to lean 4.9.0-rc2

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This allows us to directly reuse the lemmas we push to lean.

### CODE REVIEW

File: SSA/Projects/InstCombine/Test.lean [hunk 1]
```diff
@@ -228,33 +228,27 @@ def bb0IcomGeneric (w : Nat) := [alive_icom (w)|
...
   Note that we only have semantics (in the sense of "an implementation of `OpSemantics`")
   for concrete programs. We thus need to instantiate `GenericWidth` with some width `w` before we
   can use `denote`. In this way, we indirectly give semantics to the family of programs that
   `GenericWidth` represents.
 -/
-example (w Γv) : (GenericWidth w).denote Γv = some (BitVec.ofNat w 0) := rfl
+-- TODO: Fix this
+-- example (w Γv) : (GenericWidth w).denote Γv = some (BitVec.ofNat w 0) := by
+--  simp [Com.denote]
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/Test.lean:241]: Why does this not work anymore? Ideas?

**Comment by tobiasgrosser** [comment]
This breaks with:

```lean
error: ././././SSA/Core/Framework.lean:1805:24: tactic 'cases' failed, nested error:
dependent elimination failed, failed to solve equation
  some varMap =
    match matchVar lets vl matchLets vr ma, fun ma => matchArg lets matchLets argsl' argsr' ma with
    | none, x => none
    | some a, f => f a
````

File: SSA/Projects/InstCombine/LLVM/PrettyEDSL.lean [hunk 2]
```diff
@@ -110,6 +110,13 @@ private def pretty_select (w : Nat) :=
       llvm.return %0
   }]
 
+-- Why is this broken with:
+-- type mismatch
+-- rfl
+-- has type
+--  MLIR.EDSL.pretty_test = MLIR.EDSL.pretty_test : Prop
+-- but is expected to have type
+--   MLIR.EDSL.pretty_test = MLIR.EDSL.prettier_test_generic 32 : Prop
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/LLVM/PrettyEDSL.lean:119]: @bollu @alexkeizer, any idea what is broken here?

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/LLVM/PrettyEDSL.lean]: It seems `:= rfl` fails and `:= by rfl` succeeds.

Comment (bollu) [reply SSA/Projects/InstCombine/LLVM/PrettyEDSL.lean]: @tobiasgrosser one can check by writing `#print pretty_test` to see what proof term Lean generates. I'm fairly sure that `by rfl`, as a tactic, does more than just pure `rfl`.

**Comment by bollu** [comment]
@tobiasgrosser this is ready for review, correct?

**Comment by tobiasgrosser** [comment]
@bollu, this is now ready-to-review.

File: SSA/Projects/InstCombine/LLVM/PrettyEDSL.lean [hunk 3]
```diff
@@ -110,7 +110,8 @@ private def pretty_select (w : Nat) :=
       llvm.return %0
   }]
 
-example : pretty_test         = prettier_test_generic 32 := rfl
+-- for some reason 'rfl' does not work by 'by rfl' works
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/LLVM/PrettyEDSL.lean]:
```suggestion
-- for some reason 'rfl' does not work but 'by rfl' works
```

File: SSA/Projects/InstCombine/Test.lean [hunk 4]
```diff
@@ -228,14 +228,19 @@ def bb0IcomGeneric (w : Nat) := [llvm (w)|
...
   can use `denote`. In this way, we indirectly give semantics to the family of programs that
   `GenericWidth` represents.
 -/
-example (w Γv) : (GenericWidth w).denote Γv = some (BitVec.ofNat w 0) := rfl
+example (w Γv) : (GenericWidth w).denote Γv = some (BitVec.ofNat w 0) := by
+  unfold GenericWidth
+  revert Γv
+  simp_alive_meta
+  simp_alive_ssa
+  rfl
```
Comment (alexkeizer) [inline SSA/Projects/InstCombine/Test.lean:249]: The use of `simp_alive_meta` and `simp_alive_ssa` looks suspicious in this proof, considering the statement does not mention `ICom` or `IExpr` at all, and especially since it used to be proven just by `rfl`.

**Review by alexkeizer — COMMENTED** [review]
Some minor comments

File: SSA/Projects/InstCombine/Test.lean (hunk 4 above)
Comment (alexkeizer) [reply SSA/Projects/InstCombine/Test.lean:249]: Nvm, I misread and thought `GenericWidth` was `MVarOrGeneric`. GenericWidth is acutally an `ICom` so that makes much more sense
